US05677310
A mixture of 2,3-dihydro-5-hydroxy-1,4-benzodioxin (0.13 mol), 2-bromo-1,1-diethoxyethane (0.13 mol) and potassium carbonate (0.13 mol) in N,N-dimethylacetamide (250 ml) was stirred overnight at 140° C. The solvent was evaporated. The residue was partitioned between 1,1'-oxybisethane and water. The organic layer was separated, washed with a saturated NaCl solution, dried (MgSO4), filtered and the solvent was evaporated. The residual oil was crystallized from 2,2'-oxybispropane. The precipitate was filtered off and dried, yielding 21 g (60.2%) 5-(2,2-diethoxyethoxy)-2,3-dihydro-1,4-benzodioxin; mp. 73.1° C. (interm. 11).

reactant | 2,3-dihydro-5-hydroxy-1,4-benzodioxin | 0.13 mol | OC1=CC=CC=2OCCOC21 | C8H8O3
reactant | 2-bromo-1,1-diethoxyethane | 0.13 mol | BrCC(OCC)OCC | C6H13BrO2
reactant | potassium carbonate | 0.13 mol | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | 250 ml | CN(C(C)=O)C | C4H9NO
product | 5-(2,2-diethoxyethoxy)-2,3-dihydro-1,4-benzodioxin | 21 g, 60.2% | C(C)OC(COC1=CC=CC=2OCCOC21)OCC | C14H20O5
